US07091214B2
7-Bromo-2-butyl-1-isobutyl-1H-imidazo[4,5-c]quinolin-4-amine and trans-2-phenylvinylboronic acid were coupled according to the general procedure described in Part J of Example 1. Recrystallization from toluene followed by chromatography on silica gel (8% methanol in CH2Cl2) afforded 2-butyl-1-isobutyl-7-[(E)-2-phenylethenyl]-1H-imidazo[4,5-c]quinolin-4-amine, m.p. 215–216° C.

reactant | 7-Bromo-2-butyl-1-isobutyl-1H-imidazo[4,5-c]quinolin-4-amine | BrC=1C=CC=2C3=C(C(=NC2C1)N)N=C(N3CC(C)C)CCCC | C18H23BrN4
reactant | trans-2-phenylvinylboronic acid | C1(=CC=CC=C1)/C=C/B(O)O | C8H9BO2
product | 2-butyl-1-isobutyl-7-[(E)-2-phenylethenyl]-1H-imidazo[4,5-c]quinolin-4-amine | C(CCC)C=1N(C2=C(C(=NC=3C=C(C=CC23)\C=C\C2=CC=CC=C2)N)N1)CC(C)C | C26H30N4
